US06548493B1
(7aS,11aR)-2-(2,3-dichlorophenyl)-10-(4-pentenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
The title compound was prepared by the method of Example 382 as a yellow oil (22 mg, 62%) from (7aS,11aR)-2-(2,3-dichlorophenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (30 mg, 0.083 mmol) and 5-bromo-1-pentene (25 mg, 0.17 mmol). 1H NMR (CDCl3, 300 MHz) δ1.62-1.75 (br, 2H), 2.01-2.22 (m, 7H), 2.35-2.53 (br, 3H), 2.58-2.65 (m, 1H), 2.74 (t, J=6.6 Hz, 2H), 2.75-2.85 (br, 1H), 2.88-3.05 (br, 1H), 3.28-3.41 (m, 3H), 4.97 (d, J=13.5 Hz, 1H), 5.02 (dd, J=17.6, 1.5 Hz, 1H), 5.73-5.83 (m, 1H), 6.93 (s, 1H), 6.98 (s, 1H), 7.15-7.21 (m, 2H), 7.36-7.40 (m, 1H) ppm. MS (CI, NH3): 427.1 (base, M+H).

reactant | (7aS,11aR)-2-(2,3-dichlorophenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.083 mmol, 30 mg | ClC1=C(C=CC=C1Cl)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCNC1 | C20H20Cl2N2
reactant | 5-bromo-1-pentene | 0.17 mmol, 25 mg | BrCCCC=C | C5H9Br
reactant | NH3 | N | H3N
product | (7aS,11aR)-2-(2,3-dichlorophenyl)-10-(4-pentenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | ClC1=C(C=CC=C1Cl)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCN(C1)CCCC=C | C25H28Cl2N2
